US04898455
A solution of 0.7 g of hydroxylamine hydrochloride in 1.58 g of pyridine is treated with 3.41 g of 5-hexyl-2-[p-(trans-4-formylcyclohexyl)phenyl]pyridine and stirred at room temperature for 5 minutes. The reaction mixture is then treated with 20 ml of toluene and heated to reflux for 4 hours under water separation. The cooled reaction mixture is filtered. The filtrate is diluted with diethyl ether, washed several times with water and dried over magnesium sulphate. After evaporation there is obtained 5-hexyl-2-[p- -(4-cyanocyclohexyl)phenyl]pyridine as a cis/trans mixture.

reactant | hydroxylamine hydrochloride | 0.7 g | Cl.NO
reactant | 5-hexyl-2-[p-(trans-4-formylcyclohexyl)phenyl]pyridine | 3.41 g | C(CCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C24H31NO
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 1.58 g | N1=CC=CC=C1 | C5H5N
product | 5-hexyl-2-[p- -(4-cyanocyclohexyl)phenyl]pyridine | C(CCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)C#N | C24H30N2
